US04017492
In the manner given in Example 13, 7-chloro-2-hydrazino-3-methyl-5-phenyl-3H-1,4-benzodiazepine can be stirred with 5-(4-methylpiperazino)-2-oxopentanoic acid at room temperature to give 7-chloro-2[[1-carboxy-4-(4-methylpiperazino)butylidene]hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-3-methyl-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NN)C)C2=CC=CC=C2)C1 | C16H15ClN4
reactant | 5-(4-methylpiperazino)-2-oxopentanoic acid | CN1CCN(CC1)CCCC(C(=O)O)=O | C10H18N2O3
product | 7-chloro-2[[1-carboxy-4-(4-methylpiperazino)butylidene]hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NN=C(CCCN2CCN(CC2)C)C(=O)O)C)C2=CC=CC=C2)C1 | C26H31ClN6O2
